US07847099B2
Synthesis of 1-methoxymethylether-2,4-di-t-butyl-6-bromobenzene
Bromine (3.7 mL, 11.6 g, 72.5 mmol, 1 equiv) was added via syringe to a solution of 2,4-di-t-butyl-phenol (15 g, 72.8 mmol, 1 equiv) in CH2Cl2 (200 ml). The brown color of Br2 disappeared upon addition. GC-MS analysis after 5 min shows only the presence of the desired brominated product (M+=286). The organic mixture was washed with water, then dried over MgSO4, and filtered. Upon removal of volatile material by rotary evaporation, a golden oil was obtained which solidified after placing under high vacuum (<1 mTorr). This material (4,6-di-t-butyl-2-bromophenol) was dissolved in dry THF (200 mL), under argon, and was deprotonated with NaH (1.92 g, 80 mmol, 1.1 equiv). After the addition of NaH the reaction mixture was stirred for 1 h at room temperature then MOMCl (6.1 mL, 6.5 g, 80.3 mmol, 1.1 equiv) was added via syringe. The reaction mixture was stirred at room temperature for 9 h. Water was added and the mixture was concentrated under vacuum to remove the THF. The desired product was extracted with CH2Cl2 (three times). The combined organic fractions were dried over MgSO4, filtered, and concentrated to ˜50 mL. CaH2 was added and stirred at room temperature for 6 h then at 100° C., under vacuum, for 1 h. The reaction vessel was sealed with a needle valve and brought inside an inert atmosphere glove box. The mixture was filtered through a pad of activated alumina with the aid of some Et2O. Volatiles were removed under vacuum to give 23.5 g (98% yield over two steps) of desired product 1-methoxymethylether-2,4-di-t-butyl-6-bromobenzene, as a golden oil. 1H NMR (300 MHz, CDCl3) δ: 1.30 (s, 9H, C(CH3)3), 1.44 (s, 9H, C(CH3)3), 3.70 (s, 3H, OCH3), 5.23 (s, 2H, OCH2O), 7.32 (d, 2H, aryl-H, 4J=2.4 Hz), 7.41 (d, 2H, aryl-H, 4J=2.4 Hz). 13C NMR (75 MHz, CDCl3) δ: 31.0 (C(CH3)3), 31.5 (C(CH3)3), 34.8 (C(CH3)3), 36.1 (C(CH3)3), 57.9 (OCH3), 99.5 (OCH2O), 117.7, 124.1, 128.9, 144.6, 147.8, 150.7 (aryl). GC-MS: M+=328.

reactant | Bromine | 72.5 mmol, 3.7 mL, 11.6 g, 1 equiv | BrBr | Br2
reactant | 2,4-di-t-butyl-phenol | 72.8 mmol, 15 g, 1 equiv | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
reactant | 4,6-di-t-butyl-2-bromophenol | C(C)(C)(C)C1=CC(=C(C(=C1)C(C)(C)C)O)Br | C14H21BrO
reactant | NaH | 80 mmol, 1.92 g, 1.1 equiv | [H-].[Na+]
reactant | MOMCl | 80.3 mmol, 6.1 mL, 6.5 g, 1.1 equiv | C(OC)Cl | C2H5ClO
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 1-methoxymethylether 2,4-di-t-butyl-6-bromobenzene | COCOCOC.C(C)(C)(C)C1=CC(=CC(=C1)C(C)(C)C)Br | InChI=1S/C14H21Br.C4H10O3/c1-13(2,3)10-7-11(14(4,5)6)9-12(15)8-10;1-5-3-7-4-6-2/h7-9H,1-6H3;3-4H2,1-2H3
